US04400382
C. Ethyl-3-(1-methyl-2-oxo(2H)quinoxalin-3-yl)carbazate
A solution of 152 g. (0.78 m.) of 3-chloro-1-methyl-1H-quinoxalin-2-one, 116 g. (1.1 m.) of ethyl carbazate and 1 l. of acetonitrile is refluxed for 16 hours. The mixture is cooled to 9° C. and the product collected by filtration and used directly for cyclization.

reactant | 3-chloro-1-methyl-1H-quinoxalin-2-one | ClC=1C(N(C2=CC=CC=C2N1)C)=O | C9H7ClN2O
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | Ethyl-3-(1-methyl-2-oxo(2H)quinoxalin-3-yl)carbazate | C(C)OC(NNC=1C(N(C2=CC=CC=C2N1)C)=O)=O | C12H14N4O3
